US07476666B2
Step 5: Methyl 5-fluoro-2-[({[(7S)-3-hydroxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-yl]carbonyl}amino)methyl]benzoate
To a solution of (7S)-3-hydroxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid (246 mg, 0.856 mmol) in DMF (3 mL) were added HOAT (175 mg, 1.28 mmol), and EDC (246 mg, 1.28 mmol). The reaction mixture was stirred at ambient temperature 15 minutes then methyl 2-(aminomethyl)-5-fluorobenzoate hydrochloride (226 mg, 1.03 mmol) and triethylamine (0.13 g, 1.28 mmol) were added. The reaction was stirred at ambient temperature overnight. The solvent was removed in vacuo, and the resulting residue was purified by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA). Collection and concentration of the appropriate fractions afforded the product as a light pink solid. 1H NMR (400 MHz, d6-DMSO) δ 9.60 (bs, 1H), 8.60 (t, J=6.2 Hz, 1H), 7.61 (dd, J=9.5, 2.3 Hz, 1H), 7.45 (m, 2H), 7.36 (m, 3H), 7.04 (d, J=7.1 Hz, 2H), 5.75 (t, J=4.0 Hz, 1H), 4.68 (ABX, J=15.8, 6.2 Hz, 2H), 4.18 (dd, J=13.4, 4.5 Hz, 1H), 3.86 (s, 3H), 3.81 (dd, J=13.4, 4.0 Hz, 1H), 2.88 (s, 3H); ES MS (M+1)-453.

reactant | (7S)-3-hydroxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid | 0.856 mmol, 246 mg | OC=1C(=NN2C1C(N(C[C@@H]2C2=CC=CC=C2)C)=O)C(=O)O | C14H13N3O4
reactant | HOAT | 1.28 mmol, 175 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | EDC | 1.28 mmol, 246 mg
reactant | methyl 2-(aminomethyl)-5-fluorobenzoate hydrochloride | 1.03 mmol, 226 mg | Cl.NCC1=C(C(=O)OC)C=C(C=C1)F
reactant | triethylamine | 1.28 mmol, 0.13 g | C(C)N(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | Methyl 5-fluoro-2-[({[(7S)-3-hydroxy-5-methyl-4-oxo-7-phenyl-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazin-2-yl]carbonyl}amino)methyl]benzoate | FC=1C=CC(=C(C(=O)OC)C1)CNC(=O)C1=NN2C(C(N(C[C@@H]2C2=CC=CC=C2)C)=O)=C1O | C23H21FN4O5
